US05728500
50 ml of glacial acetic acid was added to 6.77 g (0.04 mol) of 5-aminoacenaphthene and the mixture was stirred at 60° C. to dissolve, and 8.16 g (0.08 mol) acetic anhydride was dropwise added thereto for 15 minutes. After finishing the dropwise addition, the mixture was stirred at the same temperature for 2 hours. The reaction was determined to be finished when disappearance of 5-aminoacenaphthene was identified. The reaction product was poured into 500 ml of ice water to precipitate a crystal, which was then filtrated, washed with water and dried. As this result, 8.15 g (yield: 96.4%, melting point: 180.0°-186.0° C.) of 5-(N-acetylamino)acenaphthene was obtained.

reactant | 5-aminoacenaphthene | 0.04 mol, 6.77 g | NC1=CC=C2CCC=3C=CC=C1C32 | C12H11N
reactant | acetic anhydride | 0.08 mol, 8.16 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-(N-acetylamino)acenaphthene | 8.15 g, yield: 96.4% | C(C)(=O)NC1=CC=C2CCC=3C=CC=C1C32 | C14H13NO
